US09428503B2
Intermediate I4: 6-Bromo-7-fluoro-N-(4-methyloxan-4-yl)-3-nitroquinolin-4-amine
6-Bromo-4-chloro-7-fluoro-3-nitroquinoline (1 g, 3.27 mmol) was added to a solution of 4-methyltetrahydro-2H-pyran-4-amine hydrochloride (0.596 g, 3.93 mmol) and DIPEA (1.715 mL, 9.82 mmol) in DMA (10 mL) and the resulting mixture stirred at 100° C. for 4 h. The reaction mixture was diluted with water and the solid collected by filtration and dried to afford the desired material (1.215 g, 97%) as a brown solid which was used without further purification.

reactant | 6-Bromo-4-chloro-7-fluoro-3-nitroquinoline | 3.27 mmol, 1 g | BrC=1C=C2C(=C(C=NC2=CC1F)[N+](=O)[O-])Cl | C9H3BrClFN2O2
reactant | 4-methyltetrahydro-2H-pyran-4-amine hydrochloride | 3.93 mmol, 0.596 g | Cl.CC1(CCOCC1)N
reactant | DIPEA | 9.82 mmol, 1.715 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 6-Bromo-7-fluoro-N-(4-methyloxan-4-yl)-3-nitroquinolin-4-amine | 1.215 g, 97% | BrC=1C=C2C(=C(C=NC2=CC1F)[N+](=O)[O-])NC1(CCOCC1)C | C15H15BrFN3O3
